# Simple linear network

.options sparse=1 maxdelta=200. maxiter=50

.analysis fdtd T=1ms nsamples=20

vsin:vin 1 gnd mag=6V freq=1kHz 
res:r1 1 2 r=1kOhm

res:r2 2 gnd r=1kOhm
cap:c1 2 gnd c=.05uF

.plot fdtd 1 2

.end


