# Simple netlist to test memristor

vpulse:vin 1 0 v1=0 v2=1 tr=1ms tf=1m pw=1ms per=4ms 
#vsin:vin 1 0  mag=1 freq=1kHz rint=10. phase=-90

res:r1 1 2 r=1k
mem:m1 2 0 m = '1e3 * (np.cosh(1e6 * q)-1.)' 

.analysis tran tstep=100us tstop=12ms

.plot tran 1 2
.plot tran mem:m1:im
.plot tran mem:m1:vc

.end


