# Simple netlist with transmission line
.vars iin = .5mA
.analysis op elemop=1 intvars=1
#.analysis dc device=idc:i1 param=idc start=0 stop=.8mA verbose=0


idc:i1 gnd 20 idc=iin
res:r1 20 2 r=10k
tlinps4:tline1 2 gnd 3 gnd alpha=0
res:r2 3 gnd r=1k
diode:d1 3 gnd rs=50.

.end


